US08067445B2
Step 2: {2′-[(Acetyl-phenethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: [6-methoxy-2′-(phenethylamino-methyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester and acetyl chloride.

reactant | [6-methoxy-2′-(phenethylamino-methyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCCC1=CC=CC=C1)=O | C26H26F3NO3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | {2′-[(Acetyl-phenethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CCC1=CC=CC=C1)C(C)=O)=O | C28H28F3NO4
